US09169205B2
2-Bromo-5-cyclopropoxy-benzonitrile
To a stirred mixture of 2.50 g (13 mmol) 2-bromo-5-hydroxy-benzonitrile in 100 mL DMF are added 5.23 g (38 mmol) K2CO3 and 3.05 g (25 mmol) cyclopropylbromide. The reaction mixture is stirred for 16 h at 120° C. Afterwards the reaction is quenched by the addition of ice water and extracted with EtOAc. The org. layers are combined, washed with sat. aq. NaCl solution, dried over Na2SO4, filtered and the solvent is removed in vacuo. The crude product is purified by column chromatography (silica gel, PE/EtOAc).

reactant | 2-bromo-5-hydroxy-benzonitrile | 13 mmol, 2.50 g | BrC1=C(C#N)C=C(C=C1)O | C7H4BrNO
reactant | K2CO3 | 38 mmol, 5.23 g | C(=O)([O-])[O-].[K+].[K+]
reactant | cyclopropylbromide | 25 mmol, 3.05 g | C1(CC1)Br | C3H5Br
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2-Bromo-5-cyclopropoxy-benzonitrile | BrC1=C(C#N)C=C(C=C1)OC1CC1 | C10H8BrNO
